US05814634
To a solution of 1-(2-aminoethyl)piperidine(5.01 g) in dichloromethane (100 ml) were added triethylamine(11 ml) and acetic anhydride(4.4 ml) and then the mixture was stirred at room temperature for 40 minutes. The reaction solution was washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated under a vacuum. The residue was dropped into a suspension of lithium aluminium hydride (3.46 g) in tetrahydrofuran(100 ml). After being refluxed with heating for 1 hour, the reaction mixture was filtrated. The filtrate was concentrated, thereby yielding 4.43 g(79%) of 1-[2-(ethylamino)ethyl]piperidine.

reactant | 1-(2-aminoethyl)piperidine | 5.01 g | NCCN1CCCCC1 | C7H16N2
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 4.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-[2-(ethylamino)ethyl]piperidine | 4.43 g, 79% | C(C)NCCN1CCCCC1 | C9H20N2
